US07037938B2
A mixture of 4-bromo-2-fluorobenzaldehyde (3.0 g), piperidine (2.93 ml) and potassium carbonate (5.11 g) in N,N-dimethylformamide (30 ml) was stirred at 100° C. for 12 hours. The mixture was cooled to room temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, saturated aqueous ammonium chloride solution and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=9/1) to give 4-bromo-2-(1-piperidinyl)benzaldehyde (3.5 g).

reactant | 4-bromo-2-fluorobenzaldehyde | 3.0 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | piperidine | 2.93 ml | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 5.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-(1-piperidinyl)benzaldehyde | 3.5 g | BrC1=CC(=C(C=O)C=C1)N1CCCCC1 | C12H14BrNO
